* C:\WORKS\WS\Arduino\Simulations\D-33_v-3-0_Full-rectifier+Coil.asc
D1 0 N003 D
D2 N003 N002 D
D3 0 N001 D
D4 N001 N002 D
R1 N002 0 200
V1 N001 N003 SINE(0 5 100)
C1 N002 0 1000u
L1 N001 N003 100m
R2 N001 N003 10
.model D D
.lib C:\WORKS\PROGRAMS\LTSPIC~1\lib\cmp\standard.dio
.tran 100m
* n002
.backanno
.end
