* C:\WORKS\WS\Arduino\Simulations\Yoneda-p98__Transistor_switching.asc
R1 N003 N002 1k
R2 N004 0 0.0001
V2 N001 0 5
Q1 N001 N003 N004 0 NPN
V1 N002 0 PULSE(0 1 10m 0 0 10m 20m)
.model NPN NPN
.model PNP PNP
.lib C:\WORKS\PROGRAMS\LTSPIC~1\lib\cmp\standard.bjt
.tran 100m
* n002
.backanno
.end
