* C:\WORKS\WS\Arduino\Simulations\Yoneda\D-33_v-4-1_1_Tr-inverter__v2.asc
Q1 N002 N003 N004 0 NPN
R1 N005 N001 2k
R3 N002 N001 2k
R4 0 N004 10k
D1 N005 0 D
D2 N002 0 D
V1 N001 0 PULSE(0 3 10m 0 0 10m 20m)
R2 N001 N003 120k
.model D D
.lib C:\WORKS\PROGRAMS\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\WORKS\PROGRAMS\LTspiceIV\lib\cmp\standard.bjt
.tran 100m
* n002
* n003
* n004
* n001
* n005
.backanno
.end
