* C:\WORKS\WS\Arduino\Simulations\Yoneda\D-35_v-1.0_e-1_multi-vib.asc
Q1 N003 N005 0 0 NPN
Q2 N006 N004 0 0 NPN
C1 N005 N006 0.1u V=25 Irms=39m Rser=2.8 Lser=0 mfg="Nichicon" pn="UPR1E100MAH" type="Al electrolytic"
C2 N004 N003 0.1u V=25 Irms=24m Rser=5 Lser=0
R1 N001 N004 5k
R2 N001 N005 5k
R3 N001 N003 200
R4 N001 N002 200
V1 N001 0 3v
D1 N002 N006 D
.model D D
.lib C:\WORKS\PROGRAMS\LTSPIC~1\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\WORKS\PROGRAMS\LTSPIC~1\lib\cmp\standard.bjt
.tran 3
* n003
* n006
* n004
* n005
.backanno
.end
