* C:\WORKS\WS\Arduino\Simulations\Yoneda\Yoneda-p102_Tr-switching_Re2.asc
V1 N003 0 PULSE(0 1 10m 0 0 10m 20m)
R1 N003 N004 1k
R2 N005 0 0.0001
R3 N001 N002 10k
V2 N001 0 5v
Q1 N002 N004 N005 0 NPN
.model NPN NPN
.model PNP PNP
.lib C:\WORKS\PROGRAMS\LTspiceIV\lib\cmp\standard.bjt
.tran 100m
.backanno
.end
